US07465731B2
Palladium(II) acetate (75 mg) and 2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (313 mg) in dioxane (5 mL) was stirred at ambient temperature for 15 minutes. To this suspension was added 2,6-dichloropyrazine (1.00 g), (3R)-(−)-1-benzyl-3-aminopyrrolidine (1.42 g), and cesium carbonate (3.28 g), and the mixture was heated at 80 C for 8 hours. The resulting mixture was allowed to cool to ambient temperature, poured into water, and extracted with ethyl acetate. The organic phase was washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (chloroform/methanol=96/4 v/v) to give N-[(3R)-1-benzyl-3-pyrrolidinyl]-6-chloro-2-pyrazinamine (1.00 g) as a yellow solid.

reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 313 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | 2,6-dichloropyrazine | 1.00 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | (3R)-(−)-1-benzyl-3-aminopyrrolidine | 1.42 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)N | C11H16N2
reactant | cesium carbonate | 3.28 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Palladium(II) acetate | 75 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | N-[(3R)-1-benzyl-3-pyrrolidinyl]-6-chloro-2-pyrazinamine | 1.00 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC1=NC(=CN=C1)Cl | C15H17ClN4
